US09126998B2
rac-Benzyl [3-(3,4-difluorophenoxy)-2-hydroxypropyl]carbamate
1 of rac-1-amino-3-(3,4-difluorophenoxy)propan-2-ol (4.9 mmol, 1 equivalent) was dissolved in 16 ml of THF, and 0.76 ml of benzyl chloroformate (0.9 g, 5.4 mmol, 1.1 equivalents) and then 2.6 ml of N,N-diisopropylethylamine (1.9 g, 14.8 mmol, 3 equivalents) and 0.12 g of 4-dimethylaminopyridine were added. The mixture was stirred at RT for 30 min. 2 ml of DMF were then added, and the mixture was stirred at RT overnight. The mixture was concentrated and the residue was then taken up in ethyl acetate. The organic phase was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and concentrated. This gave 2.2 g (96% of theory, purity 73%) as a crude product which was reacted without further purification.

reactant | rac-1-amino-3-(3,4-difluorophenoxy)propan-2-ol | 4.9 mmol, 1 equivalent | NCC(COC1=CC(=C(C=C1)F)F)O | C9H11F2NO2
reactant | benzyl chloroformate | 5.4 mmol, 0.76 ml, 0.9 g, 1.1 equivalents | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N,N-diisopropylethylamine | 14.8 mmol, 2.6 ml, 1.9 g, 3 equivalents | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 16 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-Benzyl [3-(3,4-difluorophenoxy)-2-hydroxypropyl]carbamate | FC=1C=C(OCC(CNC(OCC2=CC=CC=C2)=O)O)C=CC1F | C17H17F2NO4
